US05180733
Step 1: cis-2-Benzyl-1,3,4,5,5a,6,7,11b-octahydro-3-oxo-2H-naphth[1,2-c]azepine
To a suspension of cis-1,3,4,5,5a,6,7,11b-octahydro-3-oxo-2H-naphth[1,2-c]azepine (1.0 g, 4.65 mmol), from Step 3 of Example 75, in 20 mL of dry THF, was added potassium t-butoxide (0.78 g, 6.9 mmol). The reaction mixture was stirred at ambient temperature for 0.5 h and then cooled to 0° C. and benzyl bromide (0.8 mL, 6.7 mmol) was added. The reaction mixture was allowed to warm to ambient temperature, stirred for 3 h and then poured into water and extracted three times with ethyl acetate. The combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was crystalized from ether/hexane to afford 1.1 g (79% yield) of the title compound, m.p. 114°-115° C.; MS DCI-NH3M/Z: 306 (M+H)+ ; 1H NMR (CDCl3) δ1.5-2.2 (5H, m), 2.42-2.54 (1H, m), 2.58-3.03 (5H, m), 3.79 (1H, dd, J=9.5, 13.6 Hz), 4.44 (1H, d, J=13.6 Hz), 4.95 (1H, d, J=13.6 Hz), 6.47-6.5 (1H, m), 6.97-7.45 (8H, m).

reactant | cis-1,3,4,5,5a,6,7,11b-octahydro-3-oxo-2H-naphth[1,2-c]azepine | 4.65 mmol, 1.0 g | O=C1CC[C@H]2[C@@H](CN1)C1=CC=CC=C1CC2 | C14H17NO
reactant | potassium t-butoxide | 6.9 mmol, 0.78 g | CC(C)([O-])C.[K+]
reactant | benzyl bromide | 6.7 mmol, 0.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | cis-2-Benzyl-1,3,4,5,5a,6,7,11b-octahydro-3-oxo-2H-naphth[1,2-c]azepine | 1.1 g, 79% yield | C(C1=CC=CC=C1)N1C[C@@H]2[C@H](CCC1=O)CCC1=CC=CC=C12 | C21H23NO
